US07893085B2
3-Amino-7-fluoro-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester
To a mixture of 4-chloro-5-fluoro-nicotinonitrile (1.0 g, 6.4 mmol) and potassium carbonate (4.4 g, 32 mmol) in DMF (15 mL) at 0° C. was added ethyl thioglycolate (0.73 mL, 6.7 mmol) dropwise. The reaction mixture was stirred at 0° C. for 10 min, at room temperature for 20 min and then at 40° C. for 30 min. The reaction mixture was cooled to room temperature and partitioned between water and ethyl acetate. The organic layer was separated and washed with water followed by brine, dried over sodium sulphate and concentrated in vacuo to give the title compound as a yellow solid (1.5 g, quant.). LCMS (method B): RT=3.41 min, M+H+=241.

reactant | 4-chloro-5-fluoro-nicotinonitrile | 6.4 mmol, 1.0 g | ClC1=C(C=NC=C1C#N)F | C6H2ClFN2
reactant | potassium carbonate | 32 mmol, 4.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl thioglycolate | 6.7 mmol, 0.73 mL | C(CS)(=O)OCC | C4H8O2S
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3-Amino-7-fluoro-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester | 1.5 g | C(C)OC(=O)C1=C(C=2C=NC=C(C2S1)F)N | C10H9FN2O2S
